US04927941
To a solution of 2.2 g (8.65 mmol) of 1-(2'-hydroxy-3'-piperidylpropyl)-2-nitroimidazole in 20 ml of dry dioxane, 2.5 g (15.5 mmol) of DAST was dropwise added with cooling by ice and reacted for 5 hours at room temperature. After reaction, to the solution, 10 ml of methanol was added to decompose excess DAST. Then, the solution was concentrated and partitioned between chloroform and water. The pH of the aqueous phase was adjusted to 12 by the addition of an aqueous solution of sodium hydroxide and the liquid was again partitioned between chloroform and water. The chloroform phase was dried on magnesium sulfate and filtered. The filtrate was concentrated and subjected to isolation and purification by silica gel chromatography to give 1-(2'-fluoro-3'-piperidylpropyl)-2-nitroimidazole, which was treated with hydrochloric acid to form a hydrochloride and crystallized from ethanol to give 560 mg of crystalline hydrochloride of 1-(2'-fluoro-3'-piperidylpropyl)-2-nitroimidazole.

reactant | 1-(2'-hydroxy-3'-piperidylpropyl)-2-nitroimidazole | 8.65 mmol, 2.2 g | OC(CN1C(=NC=C1)[N+](=O)[O-])CN1CCCCC1 | C11H18N4O3
reactant | DAST | 15.5 mmol, 2.5 g | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | methanol | 10 ml | CO | CH4O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(2'-fluoro-3'-piperidylpropyl)-2-nitroimidazole | FC(CN1C(=NC=C1)[N+](=O)[O-])CN1CCCCC1 | C11H17FN4O2
